US08034938B2
tert-Butyl (2S)-3-{[tert-butyl(dimethyl)silyl]oxy}-2-(tritylamino)propylcarbamate (6.19 g, 11.3 mmol) was dissolved in 115 mL of anhydrous CH2Cl2 and 18.2 mL of glacial acetic acid. The reaction mixture was cooled to 0° C. under an atmosphere of N2 and boron trifluoride diethyl etherate (1.51 mL, 11.9 mmol) was added dropwise over several minutes. After stirring for 5 hours, the reaction mixture was treated with 183 mL of cold, aqueous 10% NaOH solution. The reaction mixture was extracted into 200 mL of a 3:1 chloroform/2-propanol mixture and the layers were separated. The aqueous portion was extracted with two additional portions of the chloroform/2-propanol mixture. The organic phases were combined and dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 5%-10% methanol/CHCl3) gave tert-butyl (2S)-2-amino-3-{[tert-butyl(dimethyl)silyl]oxy}propylcarbamate (3.43 g) as a colorless syrup.

reactant | tert-Butyl (2S)-3-{[tert-butyl(dimethyl)silyl]oxy}-2-(tritylamino)propylcarbamate | 11.3 mmol, 6.19 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CNC(OC(C)(C)C)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H46N2O3Si
reactant | boron trifluoride diethyl etherate | 11.9 mmol, 1.51 mL | B(F)(F)F.CCOCC
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 115 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 18.2 mL | C(C)(=O)O | C2H4O2
product | tert-butyl (2S)-2-amino-3-{[tert-butyl(dimethyl)silyl]oxy}propylcarbamate | 3.43 g | N[C@@H](CNC(OC(C)(C)C)=O)CO[Si](C)(C)C(C)(C)C | C14H32N2O3Si
